US08008303B2
(R)-2-{6-Chloro-4′-[4-(4-methanesulfonyl-piperazin-1-ylmethyl)-phenylcarbamoyl]-biphenyl-3-ylcarbamoyl}-pyrrolidine-1-carboxylic acid tert-butyl ester
A mixture of (R)-2-(4′-Carboxy-6-chloro-biphenyl-3-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (100 mg), 4-(4-methanesulfonyl-piperazin-1-ylmethyl)-phenylamine (86 mg) and HBTU (121 mg) in dry DMF (4 ml) containing N-methylmorpholine (69 μl) was stirred at room temp for 18 h.

reactant | (R)-2-(4′-Carboxy-6-chloro-biphenyl-3-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 100 mg | C(C)(C)(C)OC(=O)N1[C@H](CCC1)C(NC=1C=C(C(=CC1)Cl)C1=CC=C(C=C1)C(=O)O)=O | C23H25ClN2O5
reactant | 4-(4-methanesulfonyl-piperazin-1-ylmethyl)-phenylamine | 86 mg | CS(=O)(=O)N1CCN(CC1)CC1=CC=C(C=C1)N | C12H19N3O2S
reactant | HBTU | 121 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | 69 μl | CN1CCOCC1 | C5H11NO
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | (R)-2-{6-Chloro-4′-[4-(4-methanesulfonyl-piperazin-1-ylmethyl)-phenylcarbamoyl]-biphenyl-3-ylcarbamoyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CCC1)C(NC=1C=C(C(=CC1)Cl)C1=CC=C(C=C1)C(NC1=CC=C(C=C1)CN1CCN(CC1)S(=O)(=O)C)=O)=O | C35H42ClN5O6S
